US06488909B1
N,N-Bis-(hydroxycarboxy-methyl)-S-ethyl-2-mercaptoethylamine-hydrochloride
1.67 g (5 mmol) of N,N-bis-(tert-butoxycarboxy-methyl)-S-ethyl-2-mercaptoethylamine is dissolved in 12 ml of tetrahydrofuran and mixed with 6 ml of concentrated hydrochloric acid. The resulting reaction mixture is stirred for 1 hour at room temperature and concentrated by evaporation in a vacuum. The residue is pulverized with 10 ml of absolute diethyl ether. Then, the product is filtered off and dried in a medium-high vacuum.

reactant | N,N-bis-(tert-butoxycarboxy-methyl)-S-ethyl-2-mercaptoethylamine | 5 mmol, 1.67 g | C(C)(C)(C)OC(N(C(C(=O)O)OC(C)(C)C)CCSCC)C(=O)O | C16H31NO6S
reactant | hydrochloric acid | 6 ml | Cl | ClH
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | N,N-Bis-(hydroxycarboxy-methyl)-S-ethyl-2-mercaptoethylamine-hydrochloride | Cl.OC(N(C(C(=O)O)O)CCSCC)C(=O)O | InChI=1S/C8H15NO6S.ClH/c1-2-16-4-3-9(5(10)7(12)13)6(11)8(14)15;/h5-6,10-11H,2-4H2,1H3,(H,12,13)(H,14,15);1H
